Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Percocet / Procainamide
 
Attending: ___.
 
Chief Complaint:
Fever, cold symptoms

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with unexplained neutropenia with atypical
lymphocytosis (followed by oncology, S/P bone marrow biopsy),
atrial fibrillation on Xarelto and Tikosyn, HTN, remote
drug-induced lupus (procainamide), and relatively recent history
of upper respiratory tract infection/pharyngitis, who presents
with fever and cold symptoms in the setting of a sick contact.

He says that last week his son came down with a cold.  A few 
days
later he himself developed upper respiratory tract symptoms
including runny nose, stuffy nose, mild intermittent
nonproductive cough, mild sore throat.  Yesterday he began to
feel somewhat worse, with subjective fever, aches, moderate
headache.  He managed the symptoms with Tylenol and ibuprofen. 
He took his temperature and was afebrile yesterday, but he and
his wife went out today and bought a new thermometer, and his
first reading on this new thermometer was 101.  He then called
his outpatient oncologist who recommended he come to the ED for
further evaluation.

In the ED, he was febrile to 101; other vital signs were
unremarkable.  Exam was notable for erythema of the oropharynx. 
Labs with unremarkable BMP, CBC with WBC of 1.9, HCT of 38.7, 
PLT
of 104; ANC of 0.88.  Urinalysis was negative except 19 RBCs. 
Flu PCR was negative.  Chest was x-ray negative.  Blood and 
urine
cultures were sent.  He was given cefepime 2 g IV and 1 L normal
saline, and admission was requested to medicine.

REVIEW OF SYSTEMS
A full 10 point review of systems was performed and is otherwise
negative except as noted above.

 
Past Medical History:
Unexplained neutropenia with atypical lymphocytosis (followed by
oncology, S/P bone marrow biopsy), atrial fibrillation on 
Xarelto
and Tikosyn, HTN, remote drug-induced lupus (procainamide), and
relatively recent history of upper respiratory tract
infection/pharyngitis

Regarding his hematologic history, he had neutropenia and
atypical lymphocytosis in ___.  He underwent workup at that 
time
including bone marrow biopsy, peripheral flow cytometry, CT
torso.  He had an expanded population of double negative T cells
with polyclonal TCR gene, thought related to procainamide. 
Lymphocytosis resolved but neutropenia and leukopenia persisted. 

In ___ he had a 30 pound weight loss and underwent CT torso 
with
borderline splenomegaly, but no adenopathy.  He had a strep
negative pharyngitis requiring 2 courses of antibiotics.  He
underwent bone marrow biopsy in ___, but the findings were
nonspecific (slightly hypocellular marrow with increased CD8 T
cells).  An extensive workup was undertaken in late ___ 
with
consideration given to LGL, autoimmune lymphoproliferative
syndrome, autoimmune neutropenia, cyclic neutropenia, and
inherited bone marrow failure syndromes.  His diagnosis remains
unclear.

 
Social History:
___
Family History:
Family history was reviewed and is thought impertinent to 
current
presentation. Brother and father with AF. No history of
malignancy.

 
Physical Exam:
VITALS: ___ 1010 Temp: 97.8 PO BP: 116/76 HR: 72 RR: 18 O2 
sat: 99% O2 delivery: RA 
GENERAL: Alert and NAD
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
No visible rhinorrhea.  
CV: Heart regular, normal perfusion, no JVD appreciated 
RESP: Normal respiratory effort with no stridor or labored 
breathing.  
GI: Abdomen soft, non-distended, non-tender
Skin: warm and dry without rashes 
NEURO: Alert, oriented, face symmetric, no new focal deficits
PSYCH: normal thought content, normal mood and affect 
 
Pertinent Results:
___ 10:30AM BLOOD WBC-1.9* RBC-4.27* Hgb-13.3* Hct-38.7* 
MCV-91 MCH-31.1 MCHC-34.4 RDW-12.1 RDWSD-39.6 Plt ___
___ 06:35AM BLOOD WBC-2.1* RBC-4.14* Hgb-12.9* Hct-38.1* 
MCV-92 MCH-31.2 MCHC-33.9 RDW-12.1 RDWSD-40.9 Plt ___
___ 07:12AM BLOOD WBC-1.9* RBC-4.47* Hgb-14.2 Hct-41.6 
MCV-93 MCH-31.8 MCHC-34.1 RDW-12.0 RDWSD-41.4 Plt ___
___ 10:30AM BLOOD Neuts-45.8 ___ Monos-17.7* 
Eos-6.3 Baso-0.5 AbsNeut-0.88* AbsLymp-0.57* AbsMono-0.34 
AbsEos-0.12 AbsBaso-0.01
___ 06:35AM BLOOD Neuts-22.8* ___ Monos-18.0* 
Eos-8.5* Baso-0.5 AbsNeut-0.48* AbsLymp-1.06* AbsMono-0.38 
AbsEos-0.18 AbsBaso-0.01
___ 07:12AM BLOOD AbsNeut-0.33*
___ 06:35AM BLOOD ___
___ 10:30AM BLOOD Glucose-99 UreaN-12 Creat-0.9 Na-141 
K-4.3 Cl-104 HCO3-24 AnGap-13
___ 06:35AM BLOOD ALT-11 AST-11 LD(LDH)-98 AlkPhos-55 
TotBili-0.6
___ 06:35AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.0
___ 10:39AM BLOOD Lactate-1.0

 
CHEST (PA & LAT) Study Date of ___ 2:03 ___ IMPRESSION:  
Compared to chest radiographs ___ and earlier this 
morning.  
Lungs are well expanded and aside from a linear scar on the 
left, essentially clear.  Mild lobulation of the left hilus is a 
chronic finding of no active clinical significance.  Mediastinal 
and right hilar contours and heart size are all normal.  There 
is no pleural abnormality. 

___ 5:33 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

   Respiratory Viral Culture (Preliminary): 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 

___ 10:45 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
___ with unexplained neutropenia with atypical
lymphocytosis (followed by oncology, S/P bone marrow biopsy),
atrial fibrillation on Xarelto and Tikosyn, HTN, remote
drug-induced lupus (procainamide), and relatively recent history
of upper respiratory tract infection/pharyngitis, who presents
with fever and cold symptoms in the setting of a sick contact.

# Fever in neutropenic patient
# Cold symptoms
# Likely viral URTI, with possible bacterial sinusitis.  He was 
initially given Cefepime, but admitting MD changed to Augmentin 
with plan to escalate if develops any worrisome clinical 
features.  Over the next ___ hours, he had no fever, shaking 
chills, or new symptoms.  His extended viral swab was negative 
and his flu negative.  Urine culture showed no evidence of UTI 
and blood culture showed NGTD.  He improved on Augmentin, so 
even though this may be a viral sinusitis, he should continue 
Augmentin in case there is a bacterial component. He did not 
feel better with Flonase, but did do well with saline nasal 
sprays in the past, so he was encouraged to use these on 
discharge. Of note, he also had a headache that was refractory 
to Tylenol and Ibuprofen but improved with Topomax.  His 
hematologist prefers not adding additional meds, but he was 
given 3 pills on D/C to help him through his acute illness.  

# Neutropenia
# Thrombocytopenia: Longstanding chronic issue, undergoing
workup. See above for summary, see Dr ___ notes in ___ for
more details. Referred in by Oncology team.  I discussed plan 
with Dr ___ ___ who agrees with current management and does 
not think he need Neupogen at this time.  Even though his ANC 
was slightly lower on discharge (330), this is in the setting of 
viral or acute illness.  He is otherwise low risk and is 
reliable to return if he were to worsen (we spoke about this 
extensively).  He has not been told to adhere to a neutropenic 
diet, but I advised him to stay away from fresh flowers and to 
try and use fruits that he can peel himself.  

# Microhematuria: In setting of thrombocytopenia + therapeutic
AC. History of smoking. No findings on recent Torso CT, though
this was not hematuria protocol. No ___ or creeping Cr to 
suggest
a vasculitis. Outpatient follow-up with his hematologist or PCP. 
 

# pAF: Currently sinus rhythm.
- Continue Tikosyn
- Continue Xarelto
- He needs to be on telemetry secondary to hospital protocol.  

# History of mild HTN: Previously on Aldactone, but this was DCd
as BPs were well controlled and there was concern it could be
potentiating neutropenia. BPs here are WNL for habitus, slightly
lower as fever broke but no symptoms. His blood pressures here 
were stable.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dofetilide 500 mcg PO Q12H 
2. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0 
3.  Sodium Chloride Nasal ___ SPRY NU QID:PRN congestion  
4.  Topiramate (Topamax) 50 mg PO DAILY 
RX *topiramate 25 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
5.  Dofetilide 500 mcg PO Q12H  
6.  Rivaroxaban 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neutropenic fever possibly secondary to sinusitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with fever in the setting of 
low white blood count (neutropenia).  The tests that look for 
specific bacterial and viral infections did not identify an 
exact cause.  However, because you got better on the antibiotic 
Augmentin, you should complete a course of this.  You may also 
use nasal sprays to help with your sinus congestion and Tylenol 
and Ibuprofen for aches and pains.  Please avoid other sick 
contacts as you are able as well as fresh flowers in the setting 
of neutropenia.  
 
Followup Instructions:
___